US04684739
To a solution of 10 g of N-(3-chloropropionyl)-3,4-methylenedioxyaniline in 50 ml of dimethylformamide are added 8.7 g of 1,4-benzodioxan-2-ylmethylamine and 8.9 g of triethylamine and the mixture is stirred for 20 hours at 50° C. After completion of the reaction, water is added and the mixture is extracted with ethyl acetate. The ethyl acetate layer is washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate and the solvent is distilled off. The residue is dissolved in ethyl acetate and 20% hydrogen chloride in ethyl acetate is added. The resulting crystals are collected by filtration and recrystallized from ethanol to give 13.7 g (77%) of N-[3-{(1,4-benzodioxan-2-ylmethyl)amino}propionyl]-3,4-methylenedioxyaniline.

reactant | N-(3-chloropropionyl)-3,4-methylenedioxyaniline | 10 g | ClCCC(=O)NC1=CC2=C(C=C1)OCO2 | C10H10ClNO3
reactant | 1,4-benzodioxan-2-ylmethylamine | 8.7 g | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | triethylamine | 8.9 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[3-{(1,4-benzodioxan-2-ylmethyl)amino}propionyl]-3,4-methylenedioxyaniline | 13.7 g, 77% | O1C(COC2=C1C=CC=C2)CNCCC(=O)NC2=CC1=C(C=C2)OCO1 | C19H20N2O5
